US06010642
8.4 g of a monohydrate of hydrazine and 45 g of 4-(3-butenyl)benzaldehyde were dissolved in 80 ml of methanol. The mixture was stirred at room temperature for 2 hours. To the mixture was then added 150 ml of dichloromethane. The mixture was then washed with saturated aqueous solution of sodium bicarbonate twice. The mixture was then dehydrated and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The resulting crude reaction product was purified through basic alumina column chromatography, and then recrystallized from methanol to obtain 42 g of 1,2-bis[4-(3-butenyl)benzylidene]hydrazine. The compound thus obtained had a melting point of 57° C. and exhibited nematic phase up to 116° C.

reactant | hydrazine | NN | H4N2
reactant | 4-(3-butenyl)benzaldehyde | 45 g | C(CC=C)C1=CC=C(C=O)C=C1 | C11H12O
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | methanol | 80 ml | CO | CH4O
product | 1,2-bis[4-(3-butenyl)benzylidene]hydrazine | 42 g | C(CC=C)C1=CC=C(C=NN=CC2=CC=C(C=C2)CCC=C)C=C1 | C22H24N2
